US06204264B1
2-(2-Henicosyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-ethanamine (Compound 32)
Triethylamine (2.25 ml) was added to a suspension containing n-docosanoic acid (4.930 g) in chloroform (50 ml), and then ethyl chlorocarbonate (1.52 ml) was added thereto while being cooled with ice. After being stirred for 1.5 hours, a solution containing N-[2-(dimethylamino)ethyl]-1,2-benzenediamine (2.593 g) in chloroform (13 ml). After being stirred for 2.5 hours while being cooled with ice, the reaction mixture was diluted with chloroform, washed with saturated sodium hydrogencarbonate aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated. Concentrated hydrochloric acid (12.1 ml) was added to a solution containing the residue (8.644 g) in ethanol (87 ml). After being stirred for 2.5 hours at 90° C., the reaction mixture was concentrated. The residue, with ethyl acetate added thereto, was washed with 1N sodium hydroxide aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated. The residue (6.90 g) was purified by silica gel column chromatography (silica gel 150 g, chloroform:methanol=60:1-30:1), thereby yielding the entitled compound (4.604 g) as pale yellow solid.

reactant | Triethylamine | 2.25 ml | C(C)N(CC)CC | C6H15N
reactant | n-docosanoic acid | 4.930 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
reactant | ethyl chlorocarbonate | 1.52 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | N-[2-(dimethylamino)ethyl]-1,2-benzenediamine | 2.593 g | CN(CCNC=1C(=CC=CC1)N)C | C10H17N3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 13 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-Henicosyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-ethanamine | 4.604 g | C(CCCCCCCCCCCCCCCCCCCC)C1=NC2=C(N1CCN(C)C)C=CC=C2 | C32H57N3
